US04603128
7α-Acetylthio-21-hydroxy-4-pregnene-3,20-dione
The product of Example 3 was hydrolyzed by treating 0.5 g of the 21-acetoxy derivative in 8 ml methylene chloride with 10 ml methanol and 4 ml 0.2M aqueous potassium carbonate at room temperature under nitrogen for 30 minutes. The hydrolyzed product was extracted with methylene chloride, washed with water, dried and evaporated. A sample obtained by preparative high performance liquid chromatography showed M+ =404 daltons. An identical product was obtained by a different synthetic route involving alkaline hydrolysis of 21-acetoxy-4,6-pregnadiene-3,20-dione to the C-21-alcohol, followed by reaction with ethanethiolic acid.

reactant | methanol | 10 ml | CO | CH4O
reactant | potassium carbonate | 0.2M, 4 ml | C([O-])([O-])=O.[K+].[K+]
reactant | 21-acetoxy-4,6-pregnadiene-3,20-dione | C(C)(=O)OCC([C@H]1CC[C@H]2[C@@H]3C=CC4=CC(CC[C@]4(C)[C@H]3CC[C@]12C)=O)=O | C23H30O4
reactant | ethanethiolic acid | CC(=O)S | C2H4OS
solvent | methylene chloride | 8 ml | C(Cl)Cl | CH2Cl2
product | 7α-Acetylthio-21-hydroxy-4-pregnene-3,20-dione | C(C)(=O)S[C@H]1[C@H]2[C@@H]3CC[C@H](C(CO)=O)[C@]3(CC[C@@H]2[C@]2(CCC(C=C2C1)=O)C)C | C23H32O4S
